US04680361
An acid-terminated caprolactone acrylate was prepared by combining 37.0 g of phthalic anhydride, 19.25 g of hexahydrophthalic anhydride, and 129.0 g of TONE Monomer M-100 in a glass, four-neck reaction flask equipped with a stirrer, a thermometer, an air inlet and an air outlet, and heating them at 125° C. for 3.5 hours. The product was recovered and found to have an Acid Number of 114 and a viscosity of 1690 cp when measured at 25° C.

reactant | phthalic anhydride | 37.0 g | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
reactant | hexahydrophthalic anhydride | 19.25 g | C1(C2C(C(=O)O1)CCCC2)=O | C8H10O3
product | caprolactone acrylate | C(C=C)(=O)O.C1(CCCCCO1)=O | InChI=1S/C6H10O2.C3H4O2/c7-6-4-2-1-3-5-8-6;1-2-3(4)5/h1-5H2;2H,1H2,(H,4,5)
